US07488844B2
(ii) (2S)-2-Ethoxy-3-(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethoxy}phenyl)propanoic acid
To a solution of ethyl(2S)-2-ethoxy-3-(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethoxy}phenyl)propanoate (0.980 g, 2.27 mmol) in acetonitrile (120 mL) was added aqueous 0.10 M LiOH (57 mL) and the reaction mixture was stirred at room temperature overnight. After neutralisation with 5% HCl, the solvent volume was reduced in vacuo and the remaining aqueous phase was acidified with 5% HCl and extracted with ethyl acetate (3×100 mL). The combined organic phase was washed brine (100 mL), dried over Na2SO4, and concentrated in vacuo to afford 0.868 g (95%) of a pale yellow oil.

reactant | ethyl(2S)-2-ethoxy-3-(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethoxy}phenyl)propanoate | 2.27 mmol, 0.980 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)OCC(=O)N(CC1=C(C=CC=C1)F)CC | C24H30FNO5
reactant | LiOH | 0.10 M, 57 mL | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | (2S)-2-Ethoxy-3-(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethoxy}phenyl)propanoic acid | 0.868 g, 95% | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)OCC(=O)N(CC1=C(C=CC=C1)F)CC | C22H26FNO5
